US08168794B2
To a solution of 5-trifluoromethylpyridin-3-amine (1 eq.) in THF (80 mL) at r.t. was added 1M sodium bis(trimethylsilylamide) in THF (2 eq.), stirred for 15 min, followed by di-tert-butyldicarbonate (1 eq.) in THF. The reaction was stirred at r.t overnight and concentrated. The concentrate was treated with 0.2M HCl aq. and EtOAc, and the organic layer was extracted, washed with NaHCO3(sat.) and brine, dried over Na2SO4, filtered and concentrated. The concentrate was purified using flash chromatography on silica gel (40% EtOAc:Hexane) to give a yellow solid as product tert-butyl 5-(trifluoromethyl)pyridin-3-ylcarbamate (31% yield). LCMS (m/z): 263.0 (MH+); LC Rt=3.84 min. 1H NMR(CDCl3) δ 8.56 (m, 2H), 8.34 (s, 1H), 6.71 (s, 1H), 1.55 (s, 9H).

reactant | 5-trifluoromethylpyridin-3-amine | 1 eq. | FC(C=1C=C(C=NC1)N)(F)F | C6H5F3N2
reactant | sodium bis(trimethylsilylamide) | 1M | C[Si](C)(C)[NH-].C[Si](C)(C)[NH-].[Na+].[Na+]
reactant | di-tert-butyldicarbonate | 1 eq. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 2 eq. | C1CCOC1 | C4H8O
product | tert-butyl 5-(trifluoromethyl)pyridin-3-ylcarbamate | 31% yield | FC(C=1C=C(C=NC1)NC(OC(C)(C)C)=O)(F)F | C11H13F3N2O2
